US04791109
140 ml of triisobutylaluminum in solution in toluene at 1.1 mole/l were added to a solution of 18 g of 2-aminophenol-4-methyl-benzenesulfonate in 300 ml of chloroform, and after stirring for 15 minutes, a solution of 12.15 g of methyl indol-4-carboxylate in 120 ml of chloroform was added. The mixture was refluxed for 20 hours and was then cooled to 0° to -10° C. and 500 ml of an N aqueous solution of hydrochloric acid were added with stirring over 15 minutes. The chloroform phase was then purified by chromatography over silica (eluent: methylene chloride) to obtain 25 g of N-[2-[(4-methylphenyl)sulfonyloxy]phenyl]-1H-indol-4-carboxamide melting at 135° C.

reactant | triisobutylaluminum | 140 ml | C(C(C)C)[Al](CC(C)C)CC(C)C
reactant | 2-aminophenol 4-methyl-benzenesulfonate | 18 g | NC1=C(C=CC=C1)O.CC1=CC=C(C=C1)S(=O)(=O)[O-]
reactant | methyl indol-4-carboxylate | 12.15 g | N1C=CC=2C(=CC=CC12)C(=O)OC | C10H9NO2
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 120 ml | C(Cl)(Cl)Cl | CHCl3
product | N-[2-[(4-methylphenyl)sulfonyloxy]phenyl]-1H-indol-4-carboxamide | 25 g | CC1=CC=C(C=C1)S(=O)(=O)OC1=C(C=CC=C1)NC(=O)C=1C=2C=CNC2C=CC1 | C22H18N2O4S
